US07632840B2
4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde was coupled with amino[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]acetic acid, deprotected and methylated by reaction with aqueous formaldehyde using analogous methods to those described for the equivalent steps in Example 68 to give [({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino](1-methylpyrrolidin-3-yl)acetic acid as a pale yellow foam; Mass Spectrum: (M+H)+ 488.

reactant | 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C=O)OC)F | C16H11ClFN3O2
reactant | amino[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]acetic acid | NC(C(=O)O)C1CN(CC1)C(=O)OC(C)(C)C | C11H20N2O4
reactant | formaldehyde | C=O | CH2O
product | [({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino](1-methylpyrrolidin-3-yl)acetic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C)C(C(=O)O)C1CN(CC1)C)OC)F | C24H27ClFN5O3
